US05859044
1-[4-(2.2.2-Trifluoro-ethanesulfonylamino)-benzyl]-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester
To a solution of crude 1-(4-amino-benzyl)-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester (2 g, ≈5 mmol) in methylene chloride (25 ml) stirring at about -78° C. under nitrogen was added triethylamine (1.28 g, 1.76 ml, 12.7 mmol). The mixture was stirred for about two minutes, and 2,2,2-trifluoroethanesulfonyl chloride (2.03 g, 1.23 ml, 12.7 mmol) was added dropwise via syringe over about five minutes. The mixture was stirred at about -78° C. for about 45 minutes, then diluted with methylene chloride and water and warmed to room temperature. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to an oil. The oil was taken up in methanol (30 ml) and triethylamine (1 ml) and stirred for about two hours at room temperature. The mixture was poured into half-saturated ammonium chloride and extracted into ethyl acetate. The ethyl acetate was washed with brine, dried over sodium sulfate, filtered, and evaporated to give the title compound (2.85 g) as a foam containing some impurities, which was reacted without further purification.

reactant | 1-(4-amino-benzyl)-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester | ≈5 mmol, 2 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)N | C23H26N2O4
reactant | triethylamine | 12.7 mmol, 1.76 ml, 1.28 g | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoroethanesulfonyl chloride | 12.7 mmol, 1.23 ml, 2.03 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[4-(2.2.2-Trifluoro-ethanesulfonylamino)-benzyl]-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester | 2.85 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)NS(=O)(=O)CC(F)(F)F | C25H27F3N2O6S
